US07842696B2
A mixture of 4-(2-trifluoromethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester (2.1 g, 5.87 mmol) and MeOH.HCl (15 mL) was stirred for 30 minutes at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for a further 2 hrs. To complete the reaction HCl gas was then purged into the mixture (NaCl+H2SO4) at 0° C. for 1 hr. The methanol was then evaporated. Toluene (2×20 mL) was added and evaporated. The resultant sticky mass was recrystallized from hexane to afford 1.57 g (91% yield) of piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone.

reactant | 4-(2-trifluoromethyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 5.87 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H21F3N2O3
reactant | MeOH.HCl | 15 mL | CO.Cl
reactant | HCl | Cl | ClH
product | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone | 1.57 g, 91% yield | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
